* P1 regression: smtj_sot.va calibrated-sigmoid observable vs golden_psw.csv
* Driven by run_regression.py, which first compiles smtj_sot.va -> smtj_sot.osdi
* with OpenVAF. DC-sweeps the write voltage and writes the model observables
* V(psw), V(sinf), V(tau) for comparison against the Python golden reference.
*
* NOTE: exact `pre_osdi` placement is ngspice-version-dependent (>=39 for OSDI).
* If your build needs it loaded before parsing, move the pre_osdi line into
* spinit or invoke: ngspice -b --command "pre_osdi smtj_sot.osdi" regression_psw.spice

* --- bias / state sources ---
Vcom com 0 dc 0
Vrd  rd  0 dc 0
Vst  st  0 dc 0
Vwr  wr  0 dc 0.9

* --- device under test (OSDI): port order wr rd com st psw tau sinf ---
N1 wr rd com st psw tau sinf smtj_sot

.control
  pre_osdi smtj_sot.osdi
  dc Vwr 0.80 0.97 0.002
  wrdata ngspice_psw.csv v(psw) v(sinf) v(tau)
  quit
.endc

.end
